US07666871B2
[2-(4-Hydroxy-phenyl)-oxazol-4-yl]-acetic acid ethyl ester
A mixture of 4-hydroxybenzamide (25.2 g, 0.18 mol) and ethyl chloroacetoacetate (90 mL) is heated to 110° C. After 1 h, more ethyl chloroacetoacetate (30 mL) is added, and continue to heat for 3 h more. The mixture is cooled to approximately 60° C., and MeOH is added. The mixture is filtered and dried to yield the title compound (36.6 g, 80%) as an off-white solid. MS (m/e): 248.3 (M+1)

reactant | 4-hydroxybenzamide | 0.18 mol, 25.2 g | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
reactant | ethyl chloroacetoacetate | 90 mL | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | ethyl chloroacetoacetate | 30 mL | ClCC(CC(=O)OCC)=O | C6H9ClO3
solvent | MeOH | CO | CH4O
product | [2-(4-Hydroxy-phenyl)-oxazol-4-yl]-acetic acid ethyl ester | 36.6 g, 80% | C(C)OC(CC=1N=C(OC1)C1=CC=C(C=C1)O)=O | C13H13NO4
